US06521643B1
To a solution of ethylamine in ethanol (20% w/w, 2 ml) was added 1-fluoro-4-(4-methoxypyridin-2-yl)-2-nitrobenzene (200 mg). The mixture was stirred at ambient temperature for 4 hours and poured into water. The precipitate was collected by filtration and dried to give 1-ethylamino-4-(4-methoxypyridin-2-yl)-2-nitrobenzene (206 mg).

reactant | ethylamine | C(C)N | C2H7N
reactant | 1-fluoro-4-(4-methoxypyridin-2-yl)-2-nitrobenzene | 200 mg | FC1=C(C=C(C=C1)C1=NC=CC(=C1)OC)[N+](=O)[O-] | C12H9FN2O3
reactant | water | O | H2O
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 1-ethylamino-4-(4-methoxypyridin-2-yl)-2-nitrobenzene | 206 mg | C(C)NC1=C(C=C(C=C1)C1=NC=CC(=C1)OC)[N+](=O)[O-] | C14H15N3O3
